US07863310B2
1-Benzyl-2-methyl-4-(3-(N-[3-methylbut-2-yl]-N-[cyano]amino)-4-nitrophenyl)-5-(2,4-difluorophenyl)-1H-imidazole
Beginning with 1-benzyl-2-methyl-4-bromo-5-(2,4-difluorophenyl)-1H-imidazole and N-[cyano]N-[3-methylbut-2-yl]2-nitro-5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)aniline, the title compound is prepared essentially as described in Preparation 35.

reactant | 1-benzyl-2-methyl-4-bromo-5-(2,4-difluorophenyl)-1H-imidazole | C(C1=CC=CC=C1)N1C(=NC(=C1C1=C(C=C(C=C1)F)F)Br)C | C17H13BrF2N2
reactant | N-[cyano]N-[3-methylbut-2-yl]2-nitro-5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)aniline | C(#N)N(C1=C(C=CC(=C1)B1OCC(CO1)(C)C)[N+](=O)[O-])C(C)C(C)C | C17H24BN3O4
product | 1-Benzyl-2-methyl-4-(3-(N-[3-methylbut-2-yl]-N-[cyano]amino)-4-nitrophenyl)-5-(2,4-difluorophenyl)-1H-imidazole | C(C1=CC=CC=C1)N1C(=NC(=C1C1=C(C=C(C=C1)F)F)C1=CC(=C(C=C1)[N+](=O)[O-])N(C#N)C(C)C(C)C)C | C29H27F2N5O2
